US08252781B2
Preparation of 2-(bicyclo[2.2.1]heptan-2-yl)-1-(2-chloro-5-fluorobenzyl)-4,4-dimethyl-1,2-diazetidin-3-one
2-(Bicyclo[2.2.1]heptan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 2-chloro-5-fluorobenzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a colorless oil.

reactant | 2-(Bicyclo[2.2.1]heptan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(CC(CC1)C2)N2NC(C2=O)(C)C | C11H18N2O
reactant | 2-chloro-5-fluorobenzyl bromide | ClC1=C(CBr)C=C(C=C1)F | C7H5BrClF
product | 2-(bicyclo[2.2.1]heptan-2-yl)-1-(2-chloro-5-fluorobenzyl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(CC(CC1)C2)N2N(C(C2=O)(C)C)CC2=C(C=CC(=C2)F)Cl | C18H22ClFN2O
